US06329370B1
5-Hydroxy-6-methoxy-2H-phthalazin-1-one
A solution of 3,4-dihydroxy-5-methoxy-3H-isobenzofuran-1-one (6.63 g, 34 mmoles), prepared as described in example 57, in ethanol (60 ml) was added with 98% hydrazine (8.5 ml). The mixture was heated to clarity and after 5 minutes a precipitate formed and was filtered and treated with 1N HCl. The mother liquors were concentrated more times and the resultant solid fractions joined to give 4.65 g of the title compound (yield: 72%).

reactant | 3,4-dihydroxy-5-methoxy-3H-isobenzofuran-1-one | 34 mmoles, 6.63 g | OC1OC(C2=CC=C(C(=C12)O)OC)=O | C9H8O5
reactant | hydrazine | 8.5 ml | NN | H4N2
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-Hydroxy-6-methoxy-2H-phthalazin-1-one | 4.65 g, yield: 72% | OC1=C2C=NNC(C2=CC=C1OC)=O | C9H8N2O3
